US08138181B2
Step 3C: Preparation of 8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1.2-a]pyridin-3-yl)-4-vinylquinoline:
To 4-iodo-8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline (898 mg, 1.89 mmol) in NMP (10 mL) was added Pd2dba3 (87 mg, 0.09 mmol), trifuran-2-ylphosphine (88 mg, 0.37 mmol) and tributyl(vinyl)stannane (659 mg, 2.1 mmol). The reaction flask was purged with N2 and the reaction was stirred at 80° C. for 2 hours. The crude mixture was diluted with EtOAc (30 mL) then washed with H2O, dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography (EtOAc/Hexane 8:1) affording the desired product (80%).

reactant | 4-iodo-8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline | 1.89 mmol, 898 mg | IC1=CC(=NC2=C(C=CC=C12)OC)C1=CN=C2N1C=CC(=C2)OCCOC | C20H18IN3O3
reactant | trifuran-2-ylphosphine | 0.37 mmol, 88 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | tributyl(vinyl)stannane | 2.1 mmol, 659 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd2dba3 | 0.09 mmol, 87 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1.2-a]pyridin-3-yl)-4-vinylquinoline | 80% | COC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C=C | C22H21N3O3
